US04767766
Step D: Preparation of 3-Acetoxy-2-(4-methoxyphenyl)-6-azabenzo[b]thiophene
A solution of 0.200 g (.69 mmol) of methyl 3-(4-methoxyphenyl)methylthiopyridine-4-carboxylate in 2 mL of dry tetrahydrofuran was added to a suspension of 83 mg (2.1 mmol) of 60% dispersion of sodium hydride in 2 mL of dry N,N-dimethylformamide. The mixture was stirred at room temperature for 3 hours, then poured onto ice water and acidified with glacial acetic acid. The solid material (product) was collected by filtration and the filtrate was extracted with ethyl acetate. The ethyl acetate extract was dried, concentrated and combined with the solid precipitate that had been collected. This material was heated at reflux with 100 mg sodium acetate in 2 mL of acetic anhydride for 2 hours, then was partitioned between ethyl acetate and water. The aqueous layer was washed with two portions of ethyl acetate and the combined extracts were dried and concentrated. The residue was crystallized from methanol to afford 100 mg (48%) of white crystalline material, m.p. 141-142° C.

reactant | methyl 3-(4-methoxyphenyl)methylthiopyridine-4-carboxylate | .69 mmol, 0.200 g | COC1=CC=C(C=C1)CC=1C=NC=CC1C(=S)OC | C15H15NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-Acetoxy-2-(4-methoxyphenyl)-6-azabenzo[b]thiophene | 100 mg, 48% | C(C)(=O)OC=1C2=C(SC1C1=CC=C(C=C1)OC)C=NC=C2 | C16H13NO3S
